* source FENGZHIBAOCHI
V_V10         N18123 0 15Vdc
R_R1         N17763 N17869  10k  
V_V9         N18005 0 5Vdc
X_U4         N17681 N18005 0 N18185 N18083 N18205 N18123 awblf398h
V_V8         N17691 0 -12Vdc
X_D1         0 N17869 awb1n5816 PARAMS:                
V_V12         N18299 0 15Vdc
V_V13         N18339 0 -15Vdc
R_R2         N17869 0  15k  
V_V6         N17681 0  
+SIN 0v 5v 1KHz 0 0 0
C_C2         0 N18381  1000pF  
C_C1         0 N18083  1n  
X_U5         N17681 N17869 0 N18339 N18381 N18433 N18299 awblf398h
V_V1         N17763 0 12Vdc
X_U3         N17681 N18205 N17763 N17691 N17869 0 LM211/301/TI
V_V11         N18185 0 -15Vdc
